US07238808B2
To a solution of 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine (2.1 g, 8.0 mmol) and tetrakis(triphenylphosphine)palladium (0.92 g, 0.8 mmol) in THF (14 mL) was added at 20° C. 0.25 M cyclopropylzinc chloride/THF suspension (ca. 128 mL, 32 mmol; freshly prepared by stirring a mixture of 64 mL of 0.5 M cyclopropylmagnesium bromide/THF and 64 mL of 0.5 M zinc chloride/THF for 1 h at 0° C., followed by 1 h at 20° C.) and the mixture was refluxed in an atmosphere of argon for 1.5 h. After the slow addition at 0° C. of saturated aqueous NH4Cl solution (20 mL), the mixture was partitioned between EtOAc and 10% sodium chloride solution. The organic layer was dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel using EtOAc/hexane (1:5 v/v) as eluent to give 5-(4-chloro-phenyl-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine (1.50 g, 69%) as an off-white solid. MS (ISP) 270.4 [(M+H)+]; mp 137–138° C.

reactant | 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine | 8.0 mmol, 2.1 g | ClC1=CC(=NC=2N1N=CC2)C2=CC=C(C=C2)Cl | C12H7Cl2N3
reactant | cyclopropylzinc chloride THF | 0.25 M | [Cl-].C1(CC1)[Zn+].C1CCOC1
reactant | cyclopropylmagnesium bromide THF | 0.5 M, 64 mL | C1(CC1)[Mg]Br.C1CCOC1
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.8 mmol, 0.92 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc chloride THF | 0.5 M, 64 mL | [Cl-].[Zn+2].[Cl-].C1CCOC1
product | 4-chloro-phenyl-7-cyclopropyl-pyrazolo[1,5-a]pyrimidine | 1.50 g, 69% | ClC1=CC=C(C=C1)C1=NN2C(N=CC=C2C2CC2)=C1 | C15H12ClN3
